US05100895
5-(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)-12-fluorodiimidazo[1,5-a:1',2'-c]quinazoline
A mixture of 5-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-12-fluoro-2,3-dihydrodiimidazo[1,5-a:1',2'-c]quinazoline (2.0 g, 5.9 mmol), nickel peroxide (10 g), and benzene (125 ml) was heated at reflux for 3.5 hours, cooled slightly, and filtered. The filtrate was evaporated to give the title compound as light yellow crystals, m.p. 266°-268° C. (Compound 38).

reactant | 5-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-12-fluoro-2,3-dihydrodiimidazo[1,5-a:1',2'-c]quinazoline | 5.9 mmol, 2.0 g | C1(CC1)C1=NOC(=N1)C=1N=CN2C1N1C(C=3C(=CC=CC23)F)=NCC1 | C17H13FN6O
catalyst | nickel peroxide | 10 g | [O-2].[O-2].[O-2].[Ni+3].[Ni+3]
solvent | benzene | 125 ml | C1=CC=CC=C1 | C6H6
product | 5-(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)-12-fluorodiimidazo[1,5-a:1',2'-c]quinazoline | C1(CC1)C1=NOC(=N1)C=1N=CN2C1N1C(C=3C(=CC=CC23)F)=NC=C1 | C17H11FN6O
